US09446012B2
To a stirred solution of 3,4-bis(benzyloxy)-5-nitrobenzoic acid (0.759 g, 2 mmol) in dimethylformamide (10 mL) at room temperature was added 1,1-carbonyldiimidazole (0.34 g, 2.10 mmol) in one portion. The resulting yellow mixture was allowed to stir for ninety minutes whereupon (Z)—N′-hydroxy-2-(trifluoromethyl)nicotinimidamide (0.41 g, 2 mmol) was added in one portion. The resulting mixture was stifled at room temperature for two hours and then poured onto water (100 mL). The resulting precipitate was filtered off, washed with water and dried. After recrystallisation from dichloromethane/isopropanol, (Z)—N′-(3,4-bis(benzyloxy)-5-nitrobenzoyloxy)-2-(trifluoromethyl)nicotinimidamide was obtained as a light yellow solid, 0.88 g (78%).

reactant | 3,4-bis(benzyloxy)-5-nitrobenzoic acid | 2 mmol, 0.759 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-] | C21H17NO6
reactant | (Z)—N′-hydroxy-2-(trifluoromethyl)nicotinimidamide | 2 mmol, 0.41 g | O\N=C(\C1=C(N=CC=C1)C(F)(F)F)/N | C7H6F3N3O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (Z)—N′-(3,4-bis(benzyloxy)-5-nitrobenzoyloxy)-2-(trifluoromethyl)nicotinimidamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)O\N=C(\C2=C(N=CC=C2)C(F)(F)F)/N)C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-] | C28H21F3N4O6
